US03934008
1. H-Pro-OtBu
9.15 g of Z-Pro-OtBu are hydrogenated in 100 ml of methanol and 1.0 g of Pd on charcoal (10 %) at room temperature. The hydrogen uptake has ended after 30 minutes. The solution is freed of catalyst by filtration and evaporated in a waterpump vacuum at 30°C. The resulting oil is homogeneous in a thin layer chromatogram on silica gel. Rf = 0.55 in the system chloroform-methanol (1:1).

reactant | Z-Pro-OtBu | 9.15 g | N1([C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C17H23NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd on charcoal | 1.0 g | [Pd] | Pd
product | H-Pro-OtBu | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
